US05142045
Glycidyl phenothiazine N-carboxylate (III)
Phenothiazine N-carbonyl chloride, 1.5 g (6 mmol) and 6 mmol of glycidol were heated in a reflux apparatus equipped with a drying tube at 90° C. for 10 hours on an oil bath. Then the reflux apparatus was converted for distillation and the excess glycidol was removed under vacuum at this temperature. The resulting brown oil solidified upon cooling and was dissolved in chloroform, treated with charcoal, dried and evaporated to dryness. Recrystallization of the resulting solid from ethanol gave the product: 1.0 g (55%), tan crystals m.p. 92°-94° C. NMR: (CDCl3) 7.3, 8H, m, phenyl; 4.5, 2H, d, d, exocyclic --CH2 --; 3.4, 1H, m, CH; 2.9, 2H, m, endocyclic --CH2 --. IR: 1710, carbonyl; 1250, 900, oxirane; 750, aromatic.

reactant | Phenothiazine N-carbonyl chloride | C1=CC=CC=2SC3=CC=CC=C3N(C12)C(=O)Cl | C13H8ClNOS
reactant | glycidol | 6 mmol | C1C(O1)CO | C3H6O2
reactant | oxirane | O1CC1 | C2H4O
product | Glycidyl phenothiazine N-carboxylate | C1=CC=CC=2SC3=CC=CC=C3N(C12)C(=O)OCC1CO1 | C16H13NO3S
